Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]=[C:13]([H:14])[H:15].[H:1][O:2]>>[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]=[C:13]([H:14])[H:15],-5.39021898078
[H:1][C:2]#[C:3][O:4][C:5][C:7]([H:8])=[C:9]([H:10])[H:11].[H:6]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11],-4.45102823582
[H:1][C:2]#[C:3][C:4]([O:6][H:7])[C:8]([H:9])([H:10])[O:11][H:12].[H:5]>>[H:1][C:2]#[C:3][C@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[O:11][H:12],-3.61219098998
[H:1][O:2][C@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])[H:11].[O:12]=[C:13]([H:14])[H:15]>>[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])[H:15],-0.745147365801
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([C:7]([H:8])([H:9])[H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18]>>[H:10].[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([C:7]([H:8])[H:9])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18],4.5170547376
[C:1]#[C:2][C:3]([O:4][H:5])[O:6][C:7]([H:8])[H:9]>>[C:1][C:2]1=[C:3]([O:4][H:5])[O:6][C:7]1([H:8])[H:9],-0.2882753099800001
[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12]>>[H:12].[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])[H:11],4.24414821179
[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[O:1]=[C:2][C:3]([H:4])([H:5])[O:6][H:7]>>[O:1]=[C:2]([C:3]([H:4])([H:5])[O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-3.62397486725
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:3].[O:1]=[C:2][C:4]([H:5])([H:6])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],3.97515523485
[O:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2],3.26306953401
[H:1][O:2][C:3][C:4]1[O:5][C@@:6]1([H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1][O:2][C:3]#[C:4][O:5][C:6]([H:7])[C:8]([H:9])([H:10])[H:11],0.5160532521
[H:1][C:2]([H:3])[C:4]#[C:6]/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14].[H:5]>>[H:1][C:2]([H:3])[C:4]([H:5])=[C:6]=[C:7]([H:8])[C:9]([H:10])[C:11]([H:12])([H:13])[H:14],-1.97296469831
[C:3]([H:4])([H:17])[H:18].[H:1][C:2]([C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14])=[C:15][H:16]>>[H:1]/[C:2](=[C:3](/[H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18],-4.47898438014
[H:1][C:2]([H:3])([H:4])[C:5]#[C:6][C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14]>>[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14].[H:1][C:2]([H:3])([H:4])[C:5]#[C:6],5.287217211230001
[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])[H:8].[O:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],3.5950415758800007
[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11][H:12]>>[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:9]([H:10])=[C:11][H:12].[H:8],4.35161345865
[C:1][C:2]#[C:3][C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:1]#[C:2][C:3][C:4]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:5],2.2311285947
[H:1][C:2]([H:3])([H:4])[O:5][C:6][C:7]([H:8])([H:9])[O:10][C:11]([H:12])[H:13]>>[H:1][C:2]([H:3])([H:4])[O:5][C:6]1[C:7]([H:8])([H:9])[O:10][C:11]1([H:12])[H:13],-1.7480185446
[C:1]#[C:2][C:3][C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:1]#[C:2].[C:3]=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],7.336618556139999
[C:8]([H:9])([H:10])[H:11].[H:1][O:2][C:3]#[C:4][C:5]([H:6])=[O:7]>>[H:1][O:2][C:3]#[C:4][C:5]([H:6])[O:7][C:8]([H:9])([H:10])[H:11],-0.94302637964
[C:1]=[C:2]([H:3])[O:4][C:5]([H:6])[C:7]([H:8])([H:9])[H:10]>>[C:1][C@@:2]1([H:3])[O:4][C@:5]1([H:6])[C:7]([H:8])([H:9])[H:10],-0.43422030653
[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])=[C:4]=[O:5]>>[H:1][C:2]([H:3])=[C:4][O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],0.148154397179
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]#[C:12][H:13]>>[C:3]([H:4])#[C:5][H:6].[H:1][C:2]([H:7])[C:8]([H:9])([H:10])[C:11]#[C:12][H:13],1.42352782552
[C:10]([H:11])([H:12])[H:13].[H:1][C:2]([H:3])([H:4])[C:5][O:6][C:7]([H:8])[H:9]>>[H:1][C:2]([H:3])([H:4])[C:5][O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-4.01382686847
[C:1].[C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11]>>[C:1]=[C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11],-5.36399528287
[C:6]([H:7])([H:8])[H:9].[H:1][O:2][C:3][O:4][H:5]>>[H:1][O:2][C:3]([O:4][H:5])[C:6]([H:7])([H:8])[H:9],-2.28773196256
[C:5]([H:6])([H:7])=[C:8]([H:9])[C:10]([H:11])([H:12])[H:13].[O:1][C:2]#[C:3][H:4]>>[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13],-1.56722800169
